* source BONUS_PART3
R_RB2         0 N16625  3.9k  
R_Re         0 VOUT  2k  
R_RC3         N02604 VOUT_HALF  0.9k  
C_C1         N02636 VOUT  1u  
V_V2         VS 0  
+SIN 0 1m 10k 0 0 0
R_RB6         0 N10825  360k  
R_RC2         0 VO2  280  
R_RE1         0 N16970  500  
R_RE3         0 N02636  3k  
C_C2         VO2 N10825  1u  
C_C5         VI N16970  1u  
R_RB1         N16625 VOUT_HALF  50k  
Q_Q2         VO2 N07945 N09547 Q2N4355
R_RC1         VO1 VOUT_HALF  29k  
R_Rs         VI VS  25  
X_TX1    N00357 0 N00384 0 SCHEMATIC1_TX1 
Q_Q3         N02604 N10825 N02636 BC368 
C_C3         VO1 N07945  1u  
V_V1         N00281 0  
+SIN 0 311.1 50 0 0 0
R_R1         N00281 N00357  1  
C_C4         0 N16625  1u  
Q_Q1         VO1 N16625 N16970 BC368 
R_RB3         N07945 VOUT_HALF  480k  
R_RE2         N09547 VOUT_HALF  0.75k  
R_RB5         N10825 VOUT_HALF  95.3k  
C_C1_1         0 VOUT_HALF  100u  
R_RB4         0 N07945  160k  
D_D1         N00384 VOUT_HALF D1N4001 

.subckt SCHEMATIC1_TX1 1 2 3 4  
K_TX1         L1_TX1 L2_TX1 1
L1_TX1         1 2 9680mH
L2_TX1         3 4 11.45mH
.ends SCHEMATIC1_TX1
