* source HALF_WAVE_RECTIFIER
V_V1         N00281 0  
+SIN 0 311.1 50 0 0 0
X_TX1    N00357 0 N00384 0 SCHEMATIC1_TX1 
R_R1         N00281 N00357  1  
R_RL         0 VOUT  1.34k  
C_C1         0 VOUT  100u  
D_D1         N00384 VOUT D1N4001 

.subckt SCHEMATIC1_TX1 1 2 3 4  
K_TX1         L1_TX1 L2_TX1 1
L1_TX1         1 2 9680mH
L2_TX1         3 4 11.45mH
.ends SCHEMATIC1_TX1
