* source BOTH_WAVE_RECTIFIER
V_V1         N00281 0  
+SIN 0 311.1 50 0 0 0
X_TX1_2    N02906 0 N01417 N01522 SCHEMATIC1_TX1_2 
D_D4_2         N01522 VOUT_FULL D1N4001 
D_D1_2         0 N01417 D1N4001 
V_V1_2         N02273 0  
+SIN 0 311.1 50 0 0 0
X_TX1    N00357 0 N00384 0 SCHEMATIC1_TX1 
C_C1_2         0 VOUT_FULL  100u  
R_R1         N00281 N00357  1  
R_R1_2         N02273 N02906  1  
R_RL         0 VOUT_HALF  1.34k  
R_RL_2         0 VOUT_FULL  1.34k  
D_D2_2         N01417 VOUT_FULL D1N4001 
C_C1         0 VOUT_HALF  100u  
D_D3_2         0 N01522 D1N4001 
D_D1         N00384 VOUT_HALF D1N4001 

.subckt SCHEMATIC1_TX1_2 1 2 3 4  
K_TX1_2         L1_TX1_2 L2_TX1_2 1
L1_TX1_2         1 2 2420mH
L2_TX1_2         3 4 3250uH
.ends SCHEMATIC1_TX1_2

.subckt SCHEMATIC1_TX1 1 2 3 4  
K_TX1         L1_TX1 L2_TX1 1
L1_TX1         1 2 9680mH
L2_TX1         3 4 11.45mH
.ends SCHEMATIC1_TX1
